US04668274
Preparation of 2,3-dihydro-2,2-dimethyl-7-(2'-chloro-ethoxy)-benzofuran
To 200 ml. methylene-chloride 32.84 g. (0.2 mole) 2,3-dihydro-2,2-dimethyl-7-hydroxy-benzofuran, 57.37 g. (0.4 mole) 1-bromo-2-chloro-ethane 200 ml. 2N sodium hydroxide solution and 8 g. Adogen 464 phase transfer catalyst (tri-C8-10 -alkyl-methyl-ammonium-chloride) are added. The reaction mixture is heated under vigorous stirring for 7 hours and the reaction is monitored by gas chromatographic analysis.

reactant | 2,3-dihydro-2,2-dimethyl-7-hydroxy-benzofuran | 0.2 mole | CC1(OC2=C(C1)C=CC=C2O)C | C10H12O2
reactant | 1-bromo-2-chloro-ethane | 0.4 mole, 200 ml | BrCCCl | C2H4BrCl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
catalyst | Adogen 464 | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene-chloride | 32.84 g | C(Cl)Cl | CH2Cl2
product | 2,3-dihydro-2,2-dimethyl-7-(2'-chloro-ethoxy)-benzofuran | CC1(OC2=C(C1)C=CC=C2OCCCl)C | C12H15ClO2
